US08207347B2
2,4-Dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester
A mixture of 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylic acid ethyl ester (=ethyl isodehydroacetate, 1.967 g, 10.02 mmol), aniline (1.865 g, 20.03 mmol) and acetic acid (0.5 mL, 9 mmol) was shaken at 90 C for 5 hours, then at 55° C. for 3 days. The excess of volatiles were removed in vacuo (0.1 mbar, 70 C, 30 min). It was transferred on to a SiO2 column (50 g) with 1,2-dichloroethane/heptane 1:3 purified by flash chromatography with gradient 20% to 100% of ethyl acetate in heptane. The pure fractions gave 906 mg of the title compound as pale yellow oil, yield 33% (non-pure additional fractions gave 886 mg of the title compound contaminated with acetanilide and 4′-acetamidoacetophenone). LC-MS (m/z) 272.4 (MH+); tR=1.07. 1H NMR (600 MHz, DMSO-d6): 1.28 (t, J=7.1 Hz, 3H, Me of Et), 1.9 (s, 3H, 2-Me), 2.16 (d, J=0.9 Hz, 3H, 4-Me), 4.28 (q, J=7.1 Hz, 2H, CH2 of Et), 6.3 (s, 1H, 5-H), 7.27 (dm, J=7.7 Hz, J<1.5 Hz, 2H, two ortho-H of Ph), 7.47 (tt, J=7.4 Hz, J=1.2 Hz, 1H, para-H of Ph), 7.53 (tm, J=7.5 Hz, J<1.7 Hz, 2H, two meta-H of Ph).

reactant | 4,6-dimethyl-2-oxo-2H-pyran-5-carboxylic acid ethyl ester | 10.02 mmol, 1.967 g | C(C)OC(=O)C=1C(=CC(OC1C)=O)C | C10H12O4
reactant | aniline | 20.03 mmol, 1.865 g | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 9 mmol, 0.5 mL | C(C)(=O)O | C2H4O2
reactant | acetanilide | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 4′-acetamidoacetophenone | C(C)(=O)NC1=CC=C(C=C1)C(C)=O | C10H11NO2
product | 2,4-Dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid ethyl ester | 886 mg | C(C)OC(=O)C1=C(N(C(C=C1C)=O)C1=CC=CC=C1)C | C16H17NO3
